US06307047B1
To a solution 2-(3,4-difluorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (378 mg, 1 mmol), Ph3P (524 mg, 2 mmol) and Example 462A (146 mg, 1 mmol) in THF (25 mL) at room temperature was added dropwise a solution of DIAD (0.4 mL, 2 mmol) in THF (5 mL). The mixture was then stirred at room temperature for 6 hours and concentrated in vacuo. The residue was passed through a silica gel pad (hexane-ethyl acetate as an eluent) to provide 550 mg of roughly purified (S)-2-(3,4-difluorophenyl)-4-(3-t-butoxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, still contaminated with reduced DIAD. MS (APCI+) m/z 507 (M+H)+; (APCI−) m/z 541 (M+Cl)−.

reactant | 2-(3,4-difluorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 1 mmol, 378 mg | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C17H12F2N2O4S
reactant | Ph3P | 2 mmol, 524 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2 mmol, 0.4 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-2-(3,4-difluorophenyl)-4-(3-t-butoxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC[C@H](COC(C)(C)C)C)C1=CC=C(C=C1)S(=O)(=O)C | C25H28F2N2O5S
